US08357679B2
Cyclopropylmethyl 2-fluoro-4-(4-(4-(1,1,1,3,3,3-hexafluoro-2-hydroxypropan-2-yl)benzyl)piperazine-1-carbonyl)phenylcarbamate
(4-Amino-3-fluorophenyl)(4-(4-(1,1,1,3,3,3-hexafluoro-2-hydroxypropan-2-yl)-benzyl)piperazin-1-yl)methanone (0.209 mmol, 0.1 g) and 4-nitrophenyl carbonochloridate (0.209 mmol, 0.042 g) were combined and stirred in dichloromethane (1 mL) at room temperature for 30 minutes. Cyclopropylmethanol (0.417 mmol, 0.030 g) and N,N-dimethylaminopyridine (0.003 g, 0.0209 mmol) were added and the reaction stirred at room temperature for 17 hours. The reaction was concentrated under vacuum and purified by acidic reverse phase HPLC to afford the title compound (22 mg).

reactant | (4-Amino-3-fluorophenyl)(4-(4-(1,1,1,3,3,3-hexafluoro-2-hydroxypropan-2-yl)-benzyl)piperazin-1-yl)methanone | 0.209 mmol, 0.1 g | NC1=C(C=C(C=C1)C(=O)N1CCN(CC1)CC1=CC=C(C=C1)C(C(F)(F)F)(C(F)(F)F)O)F | C21H20F7N3O2
reactant | 4-nitrophenyl carbonochloridate | 0.209 mmol, 0.042 g | C(OC1=CC=C(C=C1)[N+](=O)[O-])(=O)Cl | C7H4ClNO4
reactant | Cyclopropylmethanol | 0.417 mmol, 0.030 g | C1(CC1)CO | C4H8O
solvent | dichloromethane | 1 mL | ClCCl | CH2Cl2
product | Cyclopropylmethyl 2-fluoro-4-(4-(4-(1,1,1,3,3,3-hexafluoro-2-hydroxypropan-2-yl)benzyl)piperazine-1-carbonyl)phenylcarbamate | 22 mg | FC1=C(C=CC(=C1)C(=O)N1CCN(CC1)CC1=CC=C(C=C1)C(C(F)(F)F)(C(F)(F)F)O)NC(OCC1CC1)=O | C26H26F7N3O4
